US05475013
To 2.68 g of 2(S)-methyl-3-(methylsulfonyl)propionic acid t-butyl ester was added 20 mL of 4N hydrochloric acid/dioxane and the mixture stirred at room temperature for 19 hours. The solvent was removed under reduced pressure to afford 2.18 g of crude product, which was recrystallized from ethyl acetate/hexane to yield 1.44 g of 2(S)-methyl-3-(methylsulfonyl)propionic acid as white crystals.

reactant | 2(S)-methyl-3-(methylsulfonyl)propionic acid t-butyl ester | 2.68 g | C(C)(C)(C)OC([C@@H](CS(=O)(=O)C)C)=O | C9H18O4S
solvent | hydrochloric acid dioxane | 4N, 20 mL | Cl.O1CCOCC1
product | 2(S)-methyl-3-(methylsulfonyl)propionic acid | 1.44 g | C[C@@H](C(=O)O)CS(=O)(=O)C | C5H10O4S
